US09193723B2
N-isopentyl-4-nitrobenzamide
4-Nitrobenzoic acid (0.8 g, 4.79 mmol) and 1-hydroxybenzotriazole hydrate (1.1 g, 7.18 mmol) in dimethylformamide (20 mL) was treated with N-methylmorpholine (1.8 mL, 16.75 mmol) and 3-methylbutan-1-amine (0.724 mL, 6.22 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.38 g, 7.18 mmol). The reaction mixture was stirred at room temperature for 17 hours. Water was added and the resulting suspension was stirred for 2 hours. The suspension was filtered and the solid collected was washed with water and dried to provide the title compound.

reactant | 4-Nitrobenzoic acid | 4.79 mmol, 0.8 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 1-hydroxybenzotriazole hydrate | 7.18 mmol, 1.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 16.75 mmol, 1.8 mL | CN1CCOCC1 | C5H11NO
reactant | 3-methylbutan-1-amine | 6.22 mmol, 0.724 mL | CC(CCN)C | C5H13N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.18 mmol, 1.38 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-isopentyl-4-nitrobenzamide | C(CC(C)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H16N2O3
